US08404696B2
(4-{tert-butoxycarbonyl-[3-(1-hexyl-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]amino}butyl)-[3-(1-hexyl-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]carbamic acid tert-butyl ester (Compound 32)
(4-{tert-butoxycarbonyl-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]amino}butyl)-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]carbamic acid tert-butyl ester (3 g, 4.3 mmol) was dissolved in 120 mL acetonitrile. Potassium carbonate (3.45 g, 25.0 mmol) and 1-bromohexane (3.5 g, 21.1 mmol) were added thereto and stirred for 3 hours under reflux. The solvent was concentrated under reduced pressure, and silica gel column-chromatography of the remaining residue was performed to give the title compound of colorless oil form (3.7 g, 99%).

reactant | (4-{tert-butoxycarbonyl-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]amino}butyl)-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]carbamic acid tert-butyl ester | 4.3 mmol, 3 g | C(C)(C)(C)OC(N(CCCN1C(NC2=CC=CC=C2C1=O)=O)CCCCN(CCCN1C(NC2=CC=CC=C2C1=O)=O)C(=O)OC(C)(C)C)=O | C36H48N6O8
reactant | Potassium carbonate | 25.0 mmol, 3.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromohexane | 21.1 mmol, 3.5 g | BrCCCCCC | C6H13Br
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
product | (4-{tert-butoxycarbonyl-[3-(1-hexyl-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]amino}butyl)-[3-(1-hexyl-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCCN1C(N(C2=CC=CC=C2C1=O)CCCCCC)=O)CCCCN(CCCN1C(N(C2=CC=CC=C2C1=O)CCCCCC)=O)C(=O)OC(C)(C)C)=O | C48H72N6O8
